US05236952
52.6 g of 4-(benzyloxy)-3-methoxy-4'-(trifluoromethyl)benzhydrol (dissolved in 500 ml of methylene chloride) are treated within 10 minutes at 20° with 30.6 g of pyridinium chlorochromate and stirred at 20° for 2 hours. The precipitate formed is subsequently filtered and washed with methylene chloride. The filtrate is evaporated and the residue is chromatographed on 150 g of silica gel with methylene chloride. After recrystallization from methylene chloride/hexane, there is obtained 4-benzyloxy)-3-methoxy-4'-(trifluoromethyl)benzophenone of melting point 101°.

reactant | pyridinium chlorochromate | 30.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 4-(benzyloxy)-3-methoxy-4'-(trifluoromethyl)benzhydrol | 500 ml, 52.6 g | C(C1=CC=CC=C1)OC1=C(C=C(C(C2=CC=C(C=C2)C(F)(F)F)O)C=C1)OC | C22H19F3O3
product | 3-methoxy-4'-(trifluoromethyl)benzophenone | COC=1C=C(C(=O)C2=CC=C(C=C2)C(F)(F)F)C=CC1 | C15H11F3O2
